US09447086B2
Preparation of (2R,3S)-2-isopropyl-morpholine-3-carboxylic acid methyl ester (Compound AQ)
A mixture of (2R,3S)-2-isopropyl-4-(toluene-4-sulfonyl)-morpholine-3-carboxylic acid methyl ester (0.20 g, 0.59 mmol) and magnesium powder (70 mg, 2.9 mmol) in anhydrous methanol (5 mL) was stirred for 3 hours at 60° C. The solid was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue as crude product was used in next step without purification. MS: calc'd (MH+) 188, measured (MH+) 188.

reactant | (2R,3S)-2-isopropyl-4-(toluene-4-sulfonyl)-morpholine-3-carboxylic acid methyl ester | 0.59 mmol, 0.20 g | COC(=O)[C@H]1N(CCO[C@@H]1C(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
reactant | magnesium | 2.9 mmol, 70 mg | [Mg] | Mg
solvent | methanol | 5 mL | CO | CH4O
product | (2R,3S)-2-isopropyl-morpholine-3-carboxylic acid methyl ester | COC(=O)[C@H]1NCCO[C@@H]1C(C)C | C9H17NO3
